US09416130B2
A mixture of N-(7-(3,5-dimethylisoxazol-4-yl)-6-methoxy-4-((1-methoxypropan-2-yl)amino)quinolin-3-yl)tetrahydro-2H-pyran-4-carboxamide (for a preparation see Intermediate 3) (11.95 g, 25.5 mmol) and p-toluenesulfonic acid (1.2 g, 25.5 mmol) in toluene (250 ml) was heated under nitrogen at reflux using a Dean-Stark apparatus for 3 days. Further p-toluenesulfonic acid (0.2 g, 4.3 mmol) was added and heating continued overnight. Water (750 ml) was added, and the mixture basified to pH 8 using saturated aqueous sodium hydrogen carbonate solution. The aqueous was extracted with ethyl acetate (3×750 ml), the organic layers combined, dried (hydrophobic frit) and evaporated under reduced pressure. The residual solid was triturated in ether (˜200 ml), sonicated briefly. The majority of the solid appeared to be a fine powder. The fine powder suspended in the ether was decanted, the solid isolated by filtration, and dried in a vacuum oven to give crude 4-(8-methoxy-1-(1-methoxypropan-2-yl)-2-(tetrahydro-2H-pyran-4-yl)-1H-imidazo[4,5-c]quinolin-7-yl)-3,5-dimethylisoxazole (6.3 g). This material was triturated in ether (˜100 ml), sonicated briefly, and stood overnight at room temperature. The solid was isolated by filtration and dried in a vacuum oven 4-(8-methoxy-1-(1-methoxypropan-2-yl)-2-(tetrahydro-2H-pyran-4-yl)-1H-imidazo[4,5-c]quinolin-7-yl)-3,5-dimethylisoxazole (4.9 g, 10.88 mmol, 42.6% yield).

reactant | N-(7-(3,5-dimethylisoxazol-4-yl)-6-methoxy-4-((1-methoxypropan-2-yl)amino)quinolin-3-yl)tetrahydro-2H-pyran-4-carboxamide | CC1=NOC(=C1C1=C(C=C2C(=C(C=NC2=C1)NC(=O)C1CCOCC1)NC(COC)C)OC)C | C25H32N4O5
reactant | p-toluenesulfonic acid | 25.5 mmol, 1.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | p-toluenesulfonic acid | 4.3 mmol, 0.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | Water | 750 ml | O | H2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(8-methoxy-1-(1-methoxypropan-2-yl)-2-(tetrahydro-2H-pyran-4-yl)-1H-imidazo[4,5-c]quinolin-7-yl)-3,5-dimethylisoxazole | 6.3 g | COC1=CC=2C3=C(C=NC2C=C1C=1C(=NOC1C)C)N=C(N3C(COC)C)C3CCOCC3 | C25H30N4O4
